US05880147
N-(2-t-Butyl-5-(2-ethoxycarbonylethyl)phenyl]-3-(2,3-dimethoxyphenyl)octanamide
1.23 ml (6.22 mmol) of ethyl diethylphosphonoacetate were added dropwise, whilst ice-cooling, over a period of 3 minutes to a suspension of 271 mg (6.22 mmol) of sodium hydride (as a 55% w/w dispersion in mineral oil) in 7 ml of dimethylformamide, and the resulting mixture was then stirred at room temperature for 30 minutes. A solution of 1.37 g (3.11 mmol) of N-(2-t-butyl-5-formylphenyl)-3-(2,3-dimethoxyphenyl)octanamide (prepared as described in Preparation 24), in 6 ml of dimethylformamide was ice-cooled and then added dropwise to the mixture over a period of 3 minutes. The resulting mixture was stirred at room temperature for 1.5 hours. At the end of this time, the reaction mixture was diluted with ethyl acetate, and the diluted solution was washed with water and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. A solution of the residue in 20 ml of ethanol was stirred at room temperature for 8 hours in an atmosphere of hydrogen and in the presence of 400 mg of 10% palladiun-on-charcoal. At the end of this time, the reaction mixture was filtered using a Celite (trade mark) filter aid to remove the catalyst, and the filtrate was freed from the solvent by distillation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 2:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 1.56 g (yield 98%) of the title compound as an oily substance.

reactant | ethyl diethylphosphonoacetate | 6.22 mmol, 1.23 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 6.22 mmol, 271 mg | [H-].[Na+]
reactant | N-(2-t-butyl-5-formylphenyl)-3-(2,3-dimethoxyphenyl)octanamide | 3.11 mmol, 1.37 g | C(C)(C)(C)C1=C(C=C(C=C1)C=O)NC(CC(CCCCC)C1=C(C(=CC=C1)OC)OC)=O | C27H37NO4
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-t-Butyl-5-(2-ethoxycarbonylethyl)phenyl]-3-(2,3-dimethoxyphenyl)octanamide | 1.56 g, yield 98% | C(C)(C)(C)C1=C(C=C(C=C1)CCC(=O)OCC)NC(CC(CCCCC)C1=C(C(=CC=C1)OC)OC)=O | C31H45NO5
